US07935725B2
Step C: (S,S)-1-{5-[4-(Benzothiazol-2-yloxy)-benzyl]-2,5-diaza-bicyclo[2.2.1]hept-2-yl}-ethanone.
To a stirred solution of (S,S)-2-[4-(2,5-diaza-bicyclo[2.2.1]hept-2-ylmethyl)-phenoxy]-benzothiazole hydrochloride (109 mg, 0.27 mmol) and Et3N (150 μL, 1.1 mmol) in CH2Cl2 (4 mL) was added acetic anhydride (40 μL, 0.4 mmol), and the resulting solution was then stirred at rt for 18 h. The resulting white suspension was partitioned between CH2Cl2 (150 mL) and satd. aq. NaHCO3 (50 mL). The organic layer was separated, dried (Na2SO4), filtered and concentrated. Purification by silica gel flash chromatography (0% to 5% CH3OH in CH2Cl2) afforded the title compound as a viscous, colorless oil (93 mg, 92%). MS (ESI): mass calcd. for C21H21N3O2S, 379.14; m/z found, 380.2 [M+H]+. 1H NMR (500 MHz, CDCl3, mixture of rotamers): 7.73 (d, J=7.5 Hz, 1H), 7.66 (d, J=8.0 Hz, 1H), 7.44-7.36 (m, 3H), 7.33-7.24 (m, 3H), 4.78 (br m, 0.5H), 4.23 (m, 0.5H), 3.78-3.73 (br m, 2.5H), 3.56 (m, 1.5H), 3.32 (dd, J=9.3, 2.2 Hz, 0.5H), 3.27 (dd, J=11.4, 2.3 Hz, 0.5H), 3.01 (dd, J=9.1, 2.2 Hz, 0.5H), 2.84 (dd, J=9.7, 2.1 Hz, 0.5H), 2.77 (br d, J=9.9 Hz, 0.5H), 2.56 (dd, J=9.9, 1.2 Hz, 0.5H), 2.08 (s, 1.5H), 2.00 (s, 1.5H), 1.98 (br m, 0.5H), 1.91 (br m, 0.5H), 1.80 (br m, 0.5H), 1.66 (br m, 0.5H).

reactant | (S,S)-2-[4-(2,5-diaza-bicyclo[2.2.1]hept-2-ylmethyl)-phenoxy]-benzothiazole hydrochloride | 0.27 mmol, 109 mg | Cl.[C@@H]12N(C[C@@H](NC1)C2)CC2=CC=C(OC=1SC3=C(N1)C=CC=C3)C=C2
reactant | Et3N | 1.1 mmol, 150 μL | CCN(CC)CC | C6H15N
reactant | acetic anhydride | 0.4 mmol, 40 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | (S,S)-1-{5-[4-(Benzothiazol-2-yloxy)-benzyl]-2,5-diaza-bicyclo[2.2.1]hept-2-yl}-ethanone | S1C(=NC2=C1C=CC=C2)OC2=CC=C(CN1[C@@H]3CN([C@H](C1)C3)C(C)=O)C=C2 | C21H21N3O2S
